US09422279B2
To a solution of 1-tert-butyl 3-methyl 4-phenyl-5,6-dihydropyridine-1,3(2H)-dicarboxylate (740 mg, 2.33 mmol) in THF (7.2 mL) was added 1M LiAlH4 in THF (2.80 mL, 2.80 mmol) at −20° C. dropwise, after stirring at −20° C. for 30 min, it was quenched with Sat. NH4Cl, the mixture was extracted with EtOAc. Organic layers were combined, washed with brine, dried and concentrated to give crude product, which was purified by column (Hexanes/EtOAc=60:40) to give tert-butyl 5-(hydroxymethyl)-4-phenyl-3,6-dihydropyridine-1(2H)-carboxylate (512 mg).

reactant | 1-tert-butyl 3-methyl 4-phenyl-5,6-dihydropyridine-1,3(2H)-dicarboxylate | 2.33 mmol, 740 mg | C1(=CC=CC=C1)C1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H23NO4
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 7.2 mL | C1CCOC1 | C4H8O
solvent | THF | 2.80 mmol, 2.80 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-(hydroxymethyl)-4-phenyl-3,6-dihydropyridine-1(2H)-carboxylate | 512 mg | OCC1=C(CCN(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H23NO3
